US05545636
3-[1-(1-Ethyl-piperidin-4-yl)-indol-3-yl]-4-(1-methyl-indol-3-yl)-pyrrole-2,5-dione
1-(1-ethyl-piperidin-4-yl)-indole (350 mg, 1.53 mmol) was dissolved in ether (6 mL), cooled to 0° C. and oxalyl chloride (0.175 mL, 2 mmol) was slowly added. After 30 minutes, the precipitate which formed was collected and suspended in dry methylene chloride (10 mL). To this suspension was added isopropyl (1-methyl)indol-3-yl) acetimidate hydrochloride (410 mg, 1.53 mmol), followed by the dropwise addition of isopropyl (1methyl) indol-3-yl) acetimidate (1.07 mL, 7.65 mmol) in dry methylene chloride (3 mL). After 3.5 hours, p-toluene sulfonic acid (1.16 g, 6.12 mmol) was added in several portions (slightly exothermic reaction) and stirring continued for an additional hour. Title compound was isolated as described in Example 39. Recrystallization from dioxane yielded 180 mg of bright orange crystals (26% yield). M. pt.: >250° C.

reactant | 1-(1-ethyl-piperidin-4-yl)-indole | 1.53 mmol, 350 mg | C(C)N1CCC(CC1)N1C=CC2=CC=CC=C12 | C15H20N2
reactant | oxalyl chloride | 2 mmol, 0.175 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | acetimidate hydrochloride | 1.53 mmol, 410 mg | Cl.C(C)(O)=N
reactant | acetimidate | 7.65 mmol, 1.07 mL | C(C)([O-])=N
reactant | p-toluene sulfonic acid | 6.12 mmol, 1.16 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ether | 6 mL | CCOCC | C4H10O
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-[1-(1-Ethyl-piperidin-4-yl)-indol-3-yl]-4-(1-methyl-indol-3-yl)-pyrrole-2,5-dione | C(C)N1CCC(CC1)N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C28H28N4O2
